US07105553B2
N-[5-(aminosulphonyl)-4-methyl-1,3-thiazol-2-yl]-2-(2′,5′-difluoro-1,1′-biphenyl-4-yl)-N-methylacetamide
At room temperature, 1.00 g (4.0 mmol) of (2′,5′-difluoro[1,1′-biphenyl]-4-yl)acetic acid and 0.54 g (4.0 mmol) of 1-hydroxy-1H-benzotriazole hydrate are initially charged in 15 ml of dimethylformamide. 0.84 g (4.0 mmol) of 2-methylamino-4-methyl-1,3-thiazole-5-sulphonamide and 0.77 g (4.0 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride are added, and the mixture is stirred at room temperature for 18 h. Most of the dimethylformamide is removed at 50° C. under high vacuum, and the residue is stirred 3 times with in each case 50 ml of water and filtered off, stirred with 50 ml of isopropanol and filtered off once more. Removal of the solvent under reduced pressure gives the compound of Example 87 in the form of a slightly yellow solid.

reactant | (2′,5′-difluoro[1,1′-biphenyl]-4-yl)acetic acid | 4.0 mmol, 1.00 g | FC1=C(C=C(C=C1)F)C1=CC=C(C=C1)CC(=O)O | C14H10F2O2
reactant | 1-hydroxy-1H-benzotriazole hydrate | 4.0 mmol, 0.54 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-methylamino-4-methyl-1,3-thiazole-5-sulphonamide | 4.0 mmol, 0.84 g | CNC=1SC(=C(N1)C)S(=O)(=O)N | C5H9N3O2S2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 4.0 mmol, 0.77 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[5-(aminosulphonyl)-4-methyl-1,3-thiazol-2-yl]-2-(2′,5′-difluoro-1,1′-biphenyl-4-yl)-N-methylacetamide | NS(=O)(=O)C1=C(N=C(S1)N(C(CC1=CC=C(C=C1)C1=C(C=CC(=C1)F)F)=O)C)C | C19H17F2N3O3S2
